US07572922B2
4-(4-Bromophenyl)-1-[4-(trifluoromethoxy)phenyl]butane-1,3-dione
A solution of 5.40 g 4-trifluoromethoxyacetophenone and 7.57 g methyl 4-bromophenylacetate in 60 mL anhydrous THF was treated with 1.59 g 60% NaH for 60 hours. After removing the solvent under reduced pressure, the reaction mixture was diluted with 250 mL ether and washed with 250 mL 0.2 M HCl, 2×100 mL 5% NaHCO3 and 100 mL saturated brine, dried over anhydrous Na2SO4, and evaporated to give a crude product. It was purified on silica gel using 0-25% EtOAc in hexanes to give title compound as red oil. 1H NMR (CDCl3, 500 MHz) δ 7.86˜7.89 (m, 2H), 7.48˜7.51 (m, 2H), 7.27 (d, J=7 Hz, 2H), 7.17˜7.19 (m, 2H), 6.07 (s, 1H), 3.70 (s, 2H).

reactant | 4-trifluoromethoxyacetophenone | 5.40 g | CC(=O)C1=CC=C(C=C1)OC(F)(F)F | C9H7F3O2
reactant | methyl 4-bromophenylacetate | 7.57 g | BrC1=CC=C(C=C1)CC(=O)OC | C9H9BrO2
reactant | NaH | 1.59 g | [H-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-(4-Bromophenyl)-1-[4-(trifluoromethoxy)phenyl]butane-1,3-dione | BrC1=CC=C(C=C1)CC(CC(=O)C1=CC=C(C=C1)OC(F)(F)F)=O | C17H12BrF3O3
